US08232289B2
Preparation 35: 2-Bromo-3-(imidazol-1-ylmethyl)pyridine
To a solution of (2-bromo-3-pyridyl)methyl methanesulfonate (2.5 g, 9.39 mmol) in ethanol (46.97 mL) at room temperature, potassium carbonate (2.62 g) and 1H-imidazole (1.31 g) are added. The mixture is stirred at 50° C. A thick sort of emulsion is formed and 10 mL of ethanol is added and the kind of emulsion is stirred at 50° C. overnight. Water is added until all solids are dissolved. Then, it is concentrated under reduced pressure and the residue is diluted with ethyl acetate and washed with sodium bicarbonate (saturated aqueous solution). Organic layer is decanted, dried over magnesium sulfate and solvent evaporated in vacuo. Crude material is purified by normal phase Isco chromatography using as eluent dichloromethane and methanol (98/2 to 90/10) to yield 1.42 g of the title compound. MS (m/z): 238, 240 (M+1, M+3).

reactant | (2-bromo-3-pyridyl)methyl methanesulfonate | 9.39 mmol, 2.5 g | CS(=O)(=O)OCC=1C(=NC=CC1)Br | C7H8BrNO3S
reactant | potassium carbonate | 2.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1H-imidazole | 1.31 g | N1C=NC=C1 | C3H4N2
reactant | Water | O | H2O
solvent | ethanol | 46.97 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-Bromo-3-(imidazol-1-ylmethyl)pyridine | 1.42 g | BrC1=NC=CC=C1CN1C=NC=C1 | C9H8BrN3
